US08076505B2
3′,4′-dichloro-2-fluoro-4-methyl-biphenyl (29 g, 0.114 mol), N-bromosuccinimide (21.2 g, 0.119 mol), benzoyl peroxide (1.4 g, 0.004 mol) were dissolved in acetonitrile (190 ml). The mixture was refluxed for 3 hours, then cooled, mixed with a solution of sodium sulphite (2.2 g) in water (54 ml), stirred for 30 minutes and then allowed to rest to separate the phases. The lower aqueous phase was separated and extracted with dichloromethane (29 ml). The upper phase was concentrated under vacuum, mixed with water (10 ml), and dichloromethane (58 ml) and stirred. The organic phases were separated and put together, washed twice with water (29 ml), and concentrated under vacuum. The compound 3′,4′-dichloro-2-fluoro-4-bromomethyl-biphenyl was isolated as an orange oil (35.7 g, 94% yield).

reactant | 3′,4′-dichloro-2-fluoro-4-methyl-biphenyl | 0.114 mol, 29 g | ClC=1C=C(C=CC1Cl)C1=C(C=C(C=C1)C)F | C13H9Cl2F
reactant | N-bromosuccinimide | 0.119 mol, 21.2 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 0.004 mol, 1.4 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | sodium sulphite | 2.2 g | S(=O)([O-])[O-].[Na+].[Na+]
solvent | acetonitrile | 190 ml | C(C)#N | C2H3N
solvent | water | 54 ml | O | H2O
product | 3′,4′-dichloro-2-fluoro-4-bromomethyl-biphenyl | ClC=1C=C(C=CC1Cl)C1=C(C=C(C=C1)CBr)F | C13H8BrCl2F
